US06777559B2
Benzoic acid 1-(1-benzenesulfonyl-1H-indol-2-yl)-allyl ester
To a stirred solution of 10.0 g of 1-(1-benzenesulfonyl-1H-indol-2-yl)-allyl alcohol (32 mmol) in 100 ml of pyridine were added dropwise 5,6 ml benzoyl chloride (48 mmol) at 10° C. The mixture was stirred for an additional 1 h at 20° C. Most of the pyridine was distilled off, the residue was given in portions to 300 ml of ice water. The pH was adjusted to 2-3 with conc. HCl. The water was distilled off and the residue was dissolved in 100 ml of diethyl ether. After about 1 h the product crystallized. The suspension was stirred in an ice bath for 2 h, the solid was filtered off. The crude material was recrystallized from 90 ml methanol and dried 12 h at 35° C.

reactant | 1-(1-benzenesulfonyl-1H-indol-2-yl)-allyl alcohol | 32 mmol, 10.0 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC2=CC=CC=C12)C(C=C)O | C17H15NO3S
reactant | benzoyl chloride | 48 mmol, 5,6 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | Benzoic acid 1-(1-benzenesulfonyl-1H-indol-2-yl)-allyl ester | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC2=CC=CC=C12)C(C=C)OC(C1=CC=CC=C1)=O | C24H19NO4S
